US08614327B2
To a solution of 2-bromo-5-nitro-4-(trifluoromethyl)aniline (10.0 g, 35.1 mmol) in toluene/H2O (100 mL, 1:1, v/v) was added CuI (0.4 g, 2.10 mmol), Et3N (9.5 mL, 68.16 mmol), Pd(PPh3)2Cl2 (5.0 g, 7.12 mmol) and ethynyltrimethylsilane (5.2 g, 53 mmol) successively under an atmosphere of nitrogen at room temperature. The reaction mixture was transferred to a sealed pressure flask and heated at 70° C. for 10 h. The reaction mixture was cooled down to room temperature, filtered, evaporated in vacuo and purified by silica gel column chromatography (1 to 20% EtOAc in petroleum ether as eluant) to afford 5-nitro-4-(trifluoromethyl)-2-((trimethylsilyl)ethynyl)aniline (6.0 g, 57%) as yellow solid. 1H NMR (300 MHz, CDCl3): 7.67 (s, 1H), 7.13 (s, 1H), 4.86 (br s, 2H), 0.29 (s, 9H).

reactant | 2-bromo-5-nitro-4-(trifluoromethyl)aniline | 35.1 mmol, 10.0 g | BrC1=C(N)C=C(C(=C1)C(F)(F)F)[N+](=O)[O-] | C7H4BrF3N2O2
reactant | Et3N | 68.16 mmol, 9.5 mL | CCN(CC)CC | C6H15N
reactant | ethynyltrimethylsilane | 53 mmol, 5.2 g | C(#C)[Si](C)(C)C | C5H10Si
solvent | toluene H2O | C1(=CC=CC=C1)C.O
catalyst | CuI | 2.10 mmol, 0.4 g | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 7.12 mmol, 5.0 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-nitro-4-(trifluoromethyl)-2-((trimethylsilyl)ethynyl)aniline | 6.0 g, 57% | [N+](=O)([O-])C=1C(=CC(=C(N)C1)C#C[Si](C)(C)C)C(F)(F)F | C12H13F3N2O2Si
